US04902685
2-Amino-5,6,7,8-tetrahydro-3-quinolinecarbonitrile
To a mixture of 16 g (0.131 mol) of ethoxymethylenemalonitrile and 450 ml of tetrahydrofuran at -35° C. is added portionwise a mixture of 20 g (0.1322 mol) of 1-(pyrrolidino)-1-cyclohexene and 300 ml of tetrahydrofuran. After 2 hrs., the reaction mixture is allowed to warm to 0° C. for 30 min. To the reaction mixture at 0° C. is added 300 ml of a saturated solution of ammonia in methanol. The reaction mixture is stirred overnight at ambient temperature, diluted with water, and extracted with methylene chloride. The combined extracts are dried (Na2SO4) and concentrated in vacuo to give an oily solid. Trituration with ethanol affords 4.3 g (19%) of title compound. Recrystallization from ethanol provides an analytical sample: m.p. 192°-193° C.; IR (KBr) 3430, 3320, 3170, 2220, 1645, and 1600 cm-1 ; NMR (DMSO-d6)δ 7.55 (s, 1H), 6.45 (br-s, 2H, exchangeable), 2.7-2.35 (m, 4H, partially obscured by DMSO), and 1.85-1.55 (m, 4H).

reactant | ethoxymethylenemalonitrile | 0.131 mol, 16 g | C(C)OC=C(C(C#N)O)C#N | C7H8N2O2
reactant | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
reactant | 1-(pyrrolidino)-1-cyclohexene | 0.1322 mol, 20 g | N1(CCCC1)C1=CCCCC1 | C10H17N
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
reactant | ammonia | N | H3N
reactant | ethanol | C(C)O | C2H6O
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 2-Amino-5,6,7,8-tetrahydro-3-quinolinecarbonitrile | 4.3 g, 19% | NC1=NC=2CCCCC2C=C1C#N | C10H11N3
